US06479670B1
5.1. Preparation of 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid
2.00 g (10.4 mmol) of 4-methoxymethyl-4-methyl-chroman was dissolved in 25 ml of abs. CH2Cl2 and treated with a catalytic amount of Fe-powder and Na2CO3. After cooling to 0° C., 1.21 m of bromine (1.1 eq.) was added and the mixture kept for 0.6 h at this temperature. Pouring onto crushed ice, extraction with diethylether, washing the organic phase with water, drying it over magnesium sulfate, filtration and evaporation of the solvents, and ensuing flash chromatography over SiO2 (hexane/ethylacetate 95/5) yielded 1.676 g of pure title compound as colorless oil (GC>95%).

reactant | 4-methoxymethyl-4-methyl-chroman | 10.4 mmol, 2.00 g | COCC1(CCOC2=CC=CC=C12)C | C12H16O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | bromine | 1.1 eq. | BrBr | Br2
catalyst | Fe | [Fe] | Fe
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid | 1.676 g, 95% | COCC1(CCOC2=CC=C(C=C12)C#CC1=CC=C(C(=O)O)C=C1)C | C21H20O4
